US09382188B2
R) 3-(3-(2-(6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)-2-fluoroethyl)phenyl)propanoic acid
To a solution of ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)propanoate (90 mg) in THF (2.0 mL) and methanol (1.0 mL) was added 1N aqueous sodium hydroxide solution (2.0 mL), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added, at room temperature, 1N hydrochloric acid (2.0 mL), and the mixture was extracted with ethyl acetate.

reactant | ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)propanoate | 90 mg | FC(CC=1C=C(C=CC1)CCC(=O)OCC)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H35F2NO3
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-(3-(2-(6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)-2-fluoroethyl)phenyl)propanoic acid | CC(CC1=C(C=CC(=N1)C(CC=1C=C(C=CC1)CCC(=O)O)F)C1=C(C=CC(=C1)OC)F)(C)C | C28H31F2NO3
